US08703810B2
A solution of (S)-2-(3,3-dimethyl-2,5-dioxopyrrolidin-1-yl)propyl acetate (6.15 g, 27.1 mmol) in anhydrous diethyl ether (20 mL) was added to a suspension of LiAlH4 (3.0 g, 79 mmol) in anhydrous diethyl ether (250 mL) at room temperature under nitrogen atmosphere. After stirring at room temperature overnight, the reaction mixture was quenched with H2O (3 mL). The resulting suspension was filtered, and the filter cake was washed with ethyl acetate (50 mL). The combined filtrate was concentrated under reduced pressure, and the residue was purified on a silica gel column (eluting with DCM/MeOH=20/1) to give (S)-2-(3,3-dimethylpyrrolidin-1-yl)propan-1-ol (2.37 g, 59%). 1H NMR (CDCl3): δ 3.53 (dd, 1H), 3.27 (dd, 1H), 2.70 (m, 3H), 2.37 (s, 2H), 1.55 (m, 2H), 1.07 (s, 3H), 1.06 (s, 3H), 0.94 (d, 3H); LCMS: 158 (M+H)+.

reactant | (S)-2-(3,3-dimethyl-2,5-dioxopyrrolidin-1-yl)propyl acetate | 27.1 mmol, 6.15 g | C(C)(=O)OC[C@H](C)N1C(C(CC1=O)(C)C)=O | C11H17NO4
reactant | LiAlH4 | 79 mmol, 3.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | (S)-2-(3,3-dimethylpyrrolidin-1-yl)propan-1-ol | 2.37 g, 59% | CC1(CN(CC1)[C@H](CO)C)C | C9H19NO
